Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
eye gtts
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per HPI by admitting MD: 

___ with history of COPD and hypertension, along with documented
reports of dizziness and gait instability since ___ (per atrius
records), arrives as a transfer from ___ for a
neurosurgery evaluation after she fell at home and was found to
have a C2 odontoid (dens) fracture. 

Reportedly, patient was in her kitchen when she began to feel
unsteady on her feet and fell to the ground. She endorses a
possible head strike though denies loss of consciousness. She 
did
not have chest pain, shortness of breath or abdominal pain prior
to the fall.
Once on the ground, she crawled to the phone to call her
neighbor, who then brought her to the hospital.

At ___, the patient was found to be hypothermic and
bradycardic for unknown reason, with HRs in the ___. She was
asymptomatic and given a Bear Hugger. 

In the ___ ED, she endorsed neck pain but had no other
symptoms. She is not on blood thinners. She states that her last
fall was in ___.  
 
In the ___ ED:
- Initial vitals: T 95.3, HR 50, BP 136/81, RR 18, O2 95% RA 
- Exam: unremarkable 
- Labs notable for: plt 147, TSH 6.3  
- Imaging notable for:
1. CT C-spine (OSH): fracture at the base of the odontoid with
appearance most suggestive of subacute etiology. Type II/III.
Appearance is nondisplaced although the anterior margin is a few
millimeters wider than the posterior margin.
2. CT-A neck: no vascular abnormalities (no stenosis, occlusion,
aneurysm or dissection); redemonstrations of fracture through 
the
base of the dens; +pulmonary findings (see below)
3. ECG with sinus bradycardia, Q waves in II/III/aVF, T wave
flattening in V2-V3, ST depression in V4-V6, prolonged QTc

- Pt given: nothing

- Consults: Spine - noted type 3 dens fracture, appears
subacute/chronic, unlikely related to current fall. Recommended
the following:
1. Medicine admission to evaluate hypothermia and bradycardia,
fall etiology
2. Continue ___ J collar at all time
3. MRI C=spine as inpatient to determine chronicity of the
fracture and to assess for ligamentous injury
4. CT-A neck to evaluate for vertebral dissection (given
mechanism, complains of worsening dizziness)
5. ___ consider MRI brain and stroke consult if dissection

- Vitals prior to transfer: 97.8, HR 56, BP 138/52, RR 12, O2 
94%
RA

Upon arrival to the floor, the patient endorses the above
history. She states that she has had some neck pain for the last
few months, especially when she turns her head left and right,
and thought it was due to a "stiff neck." She has no pain right
now though is annoyed by the C-collar.

With regard to other medical issues - pt reports low heart rate
for several years which she thinks is related to her glaucoma
medication. She had a procedure done on her right eye which
helped a lot but her left eye continues to worsen. She has
difficulty seeing peripherally though again this has been 
stable.
She denies chest pain or shortness of breath at rest but does
feel winded going up the stairs. She is not using her Spiriva
anymore because the new formulation (respimat) is difficult to
use. She denies any abdominal pain, nausea, heart burn or
constipation; in fact she endorses some loose stool recently.
Denies dysuria or increased urinary frequency. Her lower
extremity edema is stable and she does not use Lasix (used PRN
occasionally this ___). ROS also notable for decreased
appetite over the last ___ months. 

 
Past Medical History:
- "Dizziness" and gait instability since ___
- Mild peripheral neuropathy of her feet
- COPD  
- Hypertension
- Chronic lower extremity edema 
- Glaucoma
 
Social History:
___
Family History:
- Glaucoma 
- Esophageal CA
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VITALS:  97.5 158/65 52 18 93 RA 
General: Lying supine with a c-collar in place 
HEENT: dry lips, PERRL 
CV: bradycardic, regular rhythm, distant heart sounds but no
audible murmurs
Lungs: Clear anteriorly
Abdomen: Soft, non-tender, non-distended
GU: No foley  
Ext: Warm, well perfused, 2+ non pitting lower extremity edema  
Neuro: AOx3, facial symmetry, moving all extremities with 
purpose

DISCHARGE PHYSICAL EXAM:  
========================
VITALS: Notable for bradycardia in ______ but no pauses > 2 
seconds
GENERAL: NAD, in ___ J-collar
HEENT: PERRL, oropharynx clear
CV: Bradycardic, regular rhythm, distant heart sounds but no
audible murmurs
Lungs: Clear anteriorly
Abdomen: Soft, non-tender, non-distended
GU: No Foley  
Ext: Warm, well perfused, 2+ non pitting lower extremity edema  
Neuro: AOx3, facial symmetry, ___ strength throughout upper and
lower extremities.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 09:28PM BLOOD WBC-5.0 RBC-3.92 Hgb-11.5 Hct-35.8 MCV-91 
MCH-29.3 MCHC-32.1 RDW-15.2 RDWSD-50.8* Plt ___
___ 09:28PM BLOOD Neuts-76.6* Lymphs-15.1* Monos-6.7 
Eos-0.8* Baso-0.6 Im ___ AbsNeut-3.86 AbsLymp-0.76* 
AbsMono-0.34 AbsEos-0.04 AbsBaso-0.03
___ 09:28PM BLOOD Glucose-85 UreaN-21* Creat-0.8 Na-137 
K-4.9 Cl-100 HCO3-24 AnGap-13
___ 09:28PM BLOOD Albumin-3.5 Calcium-9.3 Phos-3.3 Mg-1.8
___ 09:28PM BLOOD ALT-19 AST-25 CK(CPK)-81 AlkPhos-73 
TotBili-0.3
___ 09:39PM BLOOD pO2-85 pCO2-38 pH-7.42 calTCO2-25 Base 
XS-0
___ 09:39PM BLOOD Lactate-0.9
___ 09:28PM BLOOD cTropnT-<0.01
___ 09:28PM BLOOD VitB12-452
___ 09:28PM BLOOD TSH-6.3*
___ 09:28PM BLOOD T4-5.5
___ 08:55AM BLOOD Cortsol-19.0

DISCHARGE LABS:
==============
___ 06:45AM BLOOD WBC-3.8* RBC-3.63* Hgb-10.9* Hct-33.6* 
MCV-93 MCH-30.0 MCHC-32.4 RDW-15.4 RDWSD-52.2* Plt ___
___ 06:45AM BLOOD Glucose-70 UreaN-16 Creat-0.7 Na-137 
K-5.0 Cl-101 HCO3-24 AnGap-12
___ 06:45AM BLOOD TotProt-5.7* Albumin-3.2* Globuln-2.5 
Calcium-9.1 Phos-3.6 Mg-2.0

IMAGING
==============
___ CTA neck with and without contrast
IMPRESSION:
1. No evidence of dissection.  No evidence of occlusion or ICA 
stenosis by
NASCET criteria.
2. Known dens fracture is better evaluated on the CT C-spine 
dated ___.
3. Severe pleuroparenchymal scarring at the lung apices, some of 
which appears
nodular.  Solid nodules throughout the lungs bilaterally 
measuring up to 12 mm
at the left apex, for which follow-up is recommended.
4. Central gland glass opacities within the lungs bilaterally, 
likely
reflecting volume overload.  Prominent mediastinal lymph nodes, 
nonspecific,
but likely reactive.
5. 5 mm calcified nodule within the right lobe of the thyroid.
 
RECOMMENDATION(S):  For incidentally detected multiple solid 
pulmonary nodules
bigger than 8mm, a CT follow-up in 3 to 6 months is recommended 
in a low-risk
patient, with an optional CT follow-up in 18 to 24 months. In a 
high-risk
patient, both a CT follow-up in 3 to 6 months and in 18 to 24 
months is
recommended.
 
See the ___ ___ Guidelines for the Management 
of Pulmonary
Nodules Incidentally Detected on CT" for comments and reference:
___
 
 Thyroid nodule.  No follow up recommended.
Absent suspicious imaging features, unless there is additional 
clinical
concern, ___ of Radiology guidelines do not 
recommend further
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under
age ___ or less than 1.5 cm in patients age ___ or ___.
 
Suspicious findings include: Abnormal lymph nodes (those 
displaying
enlargement, calcification, cystic components and/or increased 
enhancement) or
invasion of local tissues by the thyroid nodule.
 
___, et al, "Managing Incidental Thyroid Nodules Detected on 
Imaging: White
Paper of the ACR Incidental Findings Committee". J ___ 
___ ___
12:143-150.

___ C spine XR
FINDINGS: 
 
C1 through T1 are demonstrated on the lateral view.  There is no 
prevertebral
swelling.  Cervical lordosis is preserved.  Re-demonstrated is a 
type 3
odontoid fracture, unchanged in alignment or position since 
prior.  No
additional fractures are identified.  There is multilevel facet 
and
uncovertebral arthropathy as well as disc height loss.  The 
lateral masses are
symmetric about the dens.
 
IMPRESSION: 
 
Type 3 odontoid fracture, unchanged in alignment or appearance 
since prior. 
The lateral masses are symmetric about the dens.
 
Multilevel degenerative changes.

 
Brief Hospital Course:
Ms. ___ is a ___ living independently with history of 
glaucoma, hypertension and COPD presenting as a transfer from 
___ for a neurosurgery evaluation after she fell at 
home and was found to have a subacute C2 odontoid (dens) 
fracture. Hospital course complicated by bradycardia.

# Unsteady gait: 
# Bilateral peripheral neuropathy:
Chronic issue for the last ___ years. Has been seen by 
outpatient ENT and neurology. Etiology unclear though ddx 
includes cardiac causes such as bradycardia or prolonged QTc and 
metabolic causes including vitamin B12 deficiency and 
hypothyroidism. Of note, recent outpatient head CT showed soft 
tissue fullness in the sella and suprasellar region, and MRI of 
the sella was suggested. Pt declined MRI during this admission 
as she would not be interested in any surgeries and would prefer 
to avoid unnecessary testing. RPR negative. B12 > 300 with 
normal MMA. 

# C2 dens fracture: likely subacute according to imaging 
findings and spine consult. Pt reports neck pain for at least 2 
months and thus this may have occurred after her initial fall in 
___. Per Neurosurgery, likely needs 12 weeks in ___ 
J collar for non-surgical management per pt preference. Deferred 
MRI C spine at this time per pt preference as it would not 
change management (pt declines surgical intervention). Started 
vitamin D supplementation. Pain control with acetaminophen PRN. 
___ evaluated and recommended ___ rehab. Baseline 
AP/lateral/open-mouth-view C-spine XR obtained ___ as baseline 
to compare to repeat XR in 6 weeks. 

# Bradycardia
# First degree heart block
# Pauses
Chronic asymptomatic bradycardia, noted in Atrius notes. Pt 
believes this correlates with initiation of her glaucoma 
medications. DDX also includes hypothyroidism, sick sinus 
syndrome. Clinical significance is unclear but it is possible 
that this is the cause of her sporadic falls and gait 
instability. ECG with PR ~250 and Q waves in II, III, aVF 
suggestive of old inferior infarct. Asymptomatic pauses up to 
___ seconds seconds. No current or recent chest pain. 
Discontinued timolol on ___ without significant increase in HR. 
EP consulted, recommended non-urgent evaluation with Ziopatch 
but no need for PPM at this time. The patient declined a monitor 
and felt that if her heart were to stop she would not want 
resuscitation or acute interventions. Furthermore she was not 
keen on a pacemaker despite discussing with her that it is not 
as invasive as other procedures, therefore a monitor was not set 
up for her before discharge per her request. Timolol had been 
stopped during hospitalization given c/f contribution to 
bradycardia but bradycardia persisted without timolol, therefore 
it was resumed before discharge. She was advised to follow up 
with Atrius cardiology. One consideration from EP team is for 
infiltrative disease such as amyloid; a full workup for this was 
not pursued in the hospital and can be done as an outpatient if 
indicated.

# Hypothermia: pt was hypothermic on arrival to ___ 
___. Etiology of this is not quite clear as patient was not 
down on the ground for that long. TSH 6.3 with T4 5.5. Pt 
remained normotensive throughout this admission.

# Decreased appetite: reports subjective decrease in appetite 
and 15 pound weight loss over the last ___ months. She denies 
depressive symptoms but has no clear etiology for weight loss. 
She will f/u with PCP. 

# Incidental imaging findings:
- Multiple airspace nodular opacities noted at both lung apices 
with focal areas of ground-glass. Correlate with symptoms of 
pneumonia. 
- Mild bronchial wall thickening, areas of mucous plugging and 
mild bronchial wall dilation likely secondary to chronic 
bronchitis. 

# Hypertension:
Continued home lisinopril 10 mg daily.

# COPD: pt with history of COPD though has not been using her 
Spiriva Respimat due to difficulty with the device. Received 
tiotropium while inpatient. 

# Glaucoma:
Continued latanoprost QHS, resumed timolol before discharge 
given not likely contributing to bradycardia. 

# Goals of care
The patient expressed interest in discussing goals of care with 
her PCP. She has talked to her children about GOC. She did note 
that she would want no invasive procedures or testing done. She 
may pursue a MOLST as needed as an outpatient. 

TRANSITIONAL ISSUES
===================
[] Pt should remain in hard C-collar for 12 weeks for 
non-operative management of dens fracture per Neurosurgery.
[] Patient needs repeat AP/lateral/open-mouth-view C-spine Xrays 
in 6 weeks (___) for Neurosurgery evaluation.
[] Needs to schedule follow-up with Dr. ___ in ___ 
clinic in 6 weeks (call ___ to make this appointment). 
[] Should have non-urgent follow up with Atrius cardiology to 
review bradycardia and consider a heart monitor. Can call 
___ to make this appointment.
[] F/u incidental imaging findings on CTA: multiple solid 
pulmonary nodules bigger than 8mm, CT follow-up in 3 to 6 months 
is recommended in a low-risk patient, with an optional CT 
follow-up in 18 to 24 months. In a high-risk patient, both a CT 
follow-up in 3 to 6 months and in 18 to 24 months is 
recommended. 
[] Consider utility of bisphosphonate 
[] PCP to follow up repeat thyroid studies given slightly 
elevated TSH
[] Pursue goals of care discussion as outpatient 

# CODE: DNR/DNI
# CONTACT: ___ (daughter) - ___

Time spent: 50 minutes 
PCP notified of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
2. Timolol Maleate 0.5% 1 DROP LEFT EYE BID 
3. Lisinopril 10 mg PO DAILY 
4. Spiriva Respimat (tiotropium bromide) 2.5 mcg/actuation 
inhalation DAILY 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY  
2.  Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS  
3.  Lisinopril 10 mg PO DAILY  
4.  Spiriva Respimat (tiotropium bromide) 2.5 mcg/actuation 
inhalation DAILY  
5.  Timolol Maleate 0.5% 1 DROP LEFT EYE BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dens fracture
Bradycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were brought to the hospital after having a fall at home. 
Your temperature was also noted to be low at ___.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- A CT scan of your neck showed that you have a C2 vertebral 
fracture (dens fracture) that appears to have occurred in the 
past, likely during a previous fall.
- You were evaluated by Neurosurgery, and fit with a ___ J 
collar to wear for neck stabilization. You decided you would 
rather have non-operative than operative management of your dens 
fracture. 
- You were started on vitamin D to promote bone strength.
- Lab tests showed that you have normal vitamin B12 levels. Your 
thyroid stimulating hormone is slightly high and should be 
followed up with repeat testing in the future.
- Your heart was tested with an electrocardiogram and monitored 
on telemetry. You were noted to have a slow heart rate 
(bradycardia) and occasional pauses on telemetry.
- The Electrophysiology Cardiology specialists evaluated you and 
recommended ####.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications and follow-up 
with your appointments as listed below.
- You should continue to wear the ___ J collar until you 
follow up with Neurosurgery specialists in clinic in 6 weeks. 
Please make this appointment following the instructions below. 
You will need a repeat x-ray of your neck in 6 weeks, before 
this appointment.
- You will likely have to wear the collar for about 12 weeks 
while your vertebral fracture heals.

We wish you the best!  

Sincerely,  
Your ___ Team
 
Followup Instructions:
___